US03947467
The hydrazones formed in this manner are in turn allowed to react with N-bromosuccinimide at about room temperature in a suitable solvent, such as chloroform, to yield 1-methyl-5-nitroimidazole-2-carbonyl bromide alkyl or hydroxy-alkyl hydrazones. The reaction with N-bromosuccinimide is applicable to any of the substituted hydrazones to yield the bromo-substituted hydrazones. As a specific example, when 1-methyl-5-nitroimidazole-2-carboxaldehyde methyl hydrazone is allowed to react with N-bromosuccinimide at room temperature ini chloroform solvent, there is obtained 1 -methyl-5-nitroimidazole-2-carbonyl bromide methyl hydrazone.

reactant | 1-methyl-5-nitroimidazole-2-carboxaldehyde methyl hydrazone | CNN=CC=1N(C(=CN1)[N+](=O)[O-])C | C6H9N5O2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1 -methyl-5-nitroimidazole-2-carbonyl bromide methyl hydrazone | CNN=C(C=1N(C(=CN1)[N+](=O)[O-])C)Br | C6H8BrN5O2
